### PR TITLE
[Merged by Bors] - feat: `norm_num` extension for `Rat.num` and `Rat.den`

### LINKED ISSUE #18826: feat(Tactic/NormNum): add plugin for `Rat.num` and `Rat.den`
See discussion here:

https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60norm_num.60.20regression.2C.20what.20to.20use.20instead.3F

As test the following could be used:
```
example : (2 / 3 : ℚ).num = 2 := by norm_num1
example : (2 / 3 : ℚ).den = 3 := by norm_num1
```

### PR DESCRIPTION
**Pull request by eric-wieser**
Closes #18826

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/NormNum/GCD.lean [hunk 1]
```diff
@@ -210,6 +210,53 @@ def evalIntLCM : NormNumExt where eval {u α} e := do
...
+@[norm_num Rat.num _]
+def evalRatNum : NormNumExt where eval {u α} e := do
+  let .proj _ _ (q : Q(ℚ)) ← Meta.whnfR e | failure
+  have : u =QL 0 := ⟨⟩; have : $α =Q ℤ := ⟨⟩
+  have : $e =Q Rat.num $q := ⟨⟩
+  let _ : Q(DivisionRing ℚ) := q(inferInstance)
+  let ⟨q', n, d, eq⟩ ← deriveRat q
+  let eq : Q(IsRat $q $n $d) := eq
+  let ⟨gcd, pf⟩ := proveIntGCD q($n) q(Int.ofNat $d)
+  let ⟨lit, plit⟩ ← deriveInt q($n / $gcd) _
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/GCD.lean:245]: I suspect this is suboptimal; either I should be calling some low-level procedure for computing division (or relying on it being `rfl`), or I should be skipping the low-level `proveIntGCD` and just using `deriveInt q($n / Int.gcd n $d)`.

@digama0, @kmill: do you have any preference?

**Review by mo271 — APPROVED** [review]

**Review by mo271 — APPROVED** [review]
